US04344946
2,6-Bis-(di-n-propylamino-acetylamino)-benzo[1,2-d:5,4-d']bisthiazole dihydrochloride by method A
A mixture of 7.2 gm of 2,6-bis-(chloroacetyl-amino)-benzo[1,2-d:5,4-d']bisthiazole, 10 gm of di-n-propylamine and 100 ml of dioxane was refluxed for two hours and then evaporated to dryness in vacuo. The residue was dissolved in chloroform, and the solution was washed with water, dried, evaporated to a small volume and chromatographed on a 300 gm silicagel column with chloroform and chloroform/methanol (95:5) as the mobile phase. The title compound, 2.5 gm (25.5% of theory), was eluted, dissolved in chloroform, treated with gaseous hydrogen chloride, and the collected hydrochloride was recrystallized from ethanol/water. M.P. 210° C.

reactant | 2,6-bis-(chloroacetyl-amino)-benzo[1,2-d:5,4-d']bisthiazole | 7.2 gm | ClCC(=O)NC=1SC=2C(N1)=CC=1N=C(SC1C2)NC(CCl)=O | C12H8Cl2N4O2S2
reactant | di-n-propylamine | 10 gm | C(CC)NCCC | C6H15N
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
product | 2,6-Bis-(di-n-propylamino-acetylamino)-benzo[1,2-d:5,4-d']bisthiazole dihydrochloride | Cl.Cl.C(CC)N(CCC)N(C=1SC=2C(N1)=CC=1N=C(SC1C2)N(C(C)=O)N(CCC)CCC)C(C)=O | InChI=1S/C24H36N6O2S2.2ClH/c1-7-11-27(12-8-2)29(17(5)31)23-25-19-15-20-22(16-21(19)33-23)34-24(26-20)30(18(6)32)28(13-9-3)14-10-4;;/h15-16H,7-14H2,1-6H3;2*1H
